US07829580B2
(E)-1-[2-Cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-[(furan-2-yl)methylidene]-4-sulfanylpiperidine (Exemplification Compound No. 1-13)
To a solution of (E)-4-(acetylsulfanyl)-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-[(furan-2-yl)methylidene]piperidine (100 mg) in methanol (2.5 ml) was added potassium carbonate (50 mg) under ice-cooling, and the resulting mixture was stirred at room temperature for 15 minutes. After stirring, water was added to the reaction mixture, and the resulting mixture was extracted with dichloromethane. The extract was washed with saturated aqueous sodium chloride solution, and the organic layer was dried over anhydrous sodium sulfate. The solvent was removed in vacuo, and the residue was purified using a preparative HPLC [YMC-Pack ODS-A; YMC, mobile phase: a mixture of 70% methanol/water containing acetic acid (0.20%) and triethylamine (0.45%) (70:30, v/v)]. The eluted fraction containing the reaction product was extracted with ethyl acetate, and the organic layer was dried over anhydrous sodium sulfate and evaporated in vacuo to afford the title compound (40 mg, yield: 45%) as pale brown crystals.

reactant | (E)-4-(acetylsulfanyl)-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-[(furan-2-yl)methylidene]piperidine | 100 mg | C(C)(=O)SC1/C(/CN(CC1)C(C(=O)C1CC1)C1=C(C=CC=C1)F)=C/C=1OC=CC1 | C23H24FNO3S
reactant | potassium carbonate | 50 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | methanol | 2.5 ml | CO | CH4O
product | (E)-1-[2-Cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-[(furan-2-yl)methylidene]-4-sulfanylpiperidine | 40 mg, yield: 45% | C1(CC1)C(C(C1=C(C=CC=C1)F)N1C\C(\C(CC1)S)=C/C=1OC=CC1)=O | C21H22FNO2S
